US09359365B2
In a MW compatible vial, (S)-3-(1-aminoethyl)-8-chloro-2-phenylisoquinolin-1(2H)-one (700 mg, 2.343 mmol), (4-methoxyphenyl)methanamine (3.2 g, 23.4 mmol, 20 eq.) and diisopropylethylamine (1.6 mL, 9.4 mmol, 4 eq.) were dissolved in NMP (12 mL). The vial was sealed and heated to 180° C. in a under MW irradiation and stirred for 6 hr. The reaction mixture was cooled to RT, partitioned between Ethyl acetate and water. The organic phase was separated, washed with saturated aqueous sodium chloride solution, dried with sodium sulfate and concentrated. The residue was purified with silica gel chromatography using a gradient of DCM and MeOH to afford (S)-3-(1-aminoethyl)-8-((4-methoxybenzyl)amino)-2-phenylisoquinolin-1(2H)-one. ESI-MS m/z: 400.1 [M+H]+. (S)-3-(1-aminoethyl)-8-((4-methoxybenzyl)amino)-2-phenylisoquinolin-1(2H)-one (720 mg, 1.8 mmol), 2-((tert-butoxycarbonyl)amino)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (1.2 g, 4.31 mmol, 2.4 eq.), HOBt (700 mg, 4.57 mmol, 2.5 eq.) and EDC (800 mg, 4.17 mmol, 2.3 eq.) were suspended in DMF (30 mL). The reaction mixture was charged with diisopropylethylamine (2 mL, 11.45 mmol, 6.4 eq.) and stirred at RT for 1 hr. The reaction mixture was partitioned between Ethyl acetate and water. The organic phase was separated, washed with saturated aqueous sodium chloride solution, dried with sodium sulfate and concentrated. The residue was purified with silica gel chromatography using a gradient of Ethyl acetate and hexanes and triturated with MeOH to afford (S)-tert-butyl (3-((1-(8-((4-methoxybenzyl)amino)-1-oxo-2-phenyl-1,2-dihydroisoquinolin-3-yl)ethyl)carbamoyl)pyrazolo[1,5-a]pyrimidin-2-yl)carbamate. ESI-MS m/z: 660.3 [M+H]+. (S)-tert-butyl (3-((1-(8-((4-methoxybenzyl)amino)-1-oxo-2-phenyl-1,2-dihydroisoquinolin-3-yl)ethyl)carbamoyl)pyrazolo[1,5-a]pyrimidin-2-yl)carbamate (360 mg, 0.546 mmol) and anisole (238 μL, 2.183 mmol, 4 eq.) was dissolved TFA (2 mL) and stirred at 60° C. for 1 hr. The reaction mixture was poured in a saturated aqueous bicarbonate solution. The organic phase was dried with sodium sulfate and concentrated. The residue was purified with silica gel chromatography using a gradient of DCM. The residue was purified on semi-prep HPLC (C-18) using a gradient of ACN/Water/Formic acid to afford (S)-2-amino-N-(1-(8-amino-1-oxo-2-phenyl-1,2-dihydroisoquinolin-3-yl)ethyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide. ESI-MS m/z: 440.2 [M+H]+.

reactant | (S)-3-(1-aminoethyl)-8-((4-methoxybenzyl)amino)-2-phenylisoquinolin-1(2H)-one | 1.8 mmol, 720 mg | N[C@@H](C)C=1N(C(C2=C(C=CC=C2C1)NCC1=CC=C(C=C1)OC)=O)C1=CC=CC=C1 | C25H25N3O2
reactant | 2-((tert-butoxycarbonyl)amino)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 4.31 mmol, 1.2 g, 2.4 eq. | C(C)(C)(C)OC(=O)NC1=NN2C(N=CC=C2)=C1C(=O)O | C12H14N4O4
reactant | HOBt | 4.57 mmol, 700 mg, 2.5 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 4.17 mmol, 800 mg, 2.3 eq.
reactant | diisopropylethylamine | 11.45 mmol, 2 mL, 6.4 eq. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (S)-tert-butyl (3-((1-(8-((4-methoxybenzyl)amino)-1-oxo-2-phenyl-1,2-dihydroisoquinolin-3-yl)ethyl)carbamoyl)pyrazolo[1,5-a]pyrimidin-2-yl)carbamate | COC1=CC=C(CNC=2C=CC=C3C=C(N(C(C23)=O)C2=CC=CC=C2)[C@H](C)NC(=O)C=2C(=NN3C2N=CC=C3)NC(OC(C)(C)C)=O)C=C1 | C37H37N7O5
